*
L1 N008 0 100m
L2 N008 0 200m
L3 N008 0 150m
L4 N008 0 50m
L5 N008 0 100m
L6 N008 0 150m
L7 N008 0 50m
L8 N008 0 50m
L9 N008 0 150m
L10 N008 0 100m
R1 0 N008 100
V1 N001 0 SINE(0 10 1k)
L11 N008 N007 100m
L12 N008 N007 200m
L13 N008 N007 150m
L14 N008 N007 50m
L15 N008 N007 100m
L16 N008 N007 150m
L17 N008 N007 50m
L18 N008 N007 50m
L19 N008 N007 150m
L20 N008 N007 100m
R2 N007 N008 100
L21 N006 N007 100m
L22 N006 N007 200m
L23 N006 N007 150m
L24 N006 N007 50m
L25 N006 N007 100m
L26 N006 N007 150m
L27 N006 N007 50m
L28 N006 N007 50m
L29 N006 N007 150m
L30 N006 N007 100m
R3 N007 N006 100
L31 N006 N005 100m
L32 N006 N005 200m
L33 N006 N005 150m
L34 N006 N005 50m
L35 N006 N005 100m
L36 N006 N005 150m
L37 N006 N005 50m
L38 N006 N005 50m
L39 N006 N005 150m
L40 N006 N005 100m
R4 N005 N006 100
L41 N004 N005 100m
L42 N004 N005 200m
L43 N004 N005 150m
L44 N004 N005 50m
L45 N004 N005 100m
L46 N004 N005 150m
L47 N004 N005 50m
L48 N004 N005 50m
L49 N004 N005 150m
L50 N004 N005 100m
R5 N005 N004 100
L51 N004 N003 100m
L52 N004 N003 200m
L53 N004 N003 150m
L54 N004 N003 50m
L55 N004 N003 100m
L56 N004 N003 150m
L57 N004 N003 50m
L58 N004 N003 50m
L59 N004 N003 150m
L60 N004 N003 100m
R6 N003 N004 100
L61 N002 N003 100m
L62 N002 N003 200m
L63 N002 N003 150m
L64 N002 N003 50m
L65 N002 N003 100m
L66 N002 N003 150m
L67 N002 N003 50m
L68 N002 N003 50m
L69 N002 N003 150m
L70 N002 N003 100m
R7 N003 N002 100
L71 N002 N001 100m
L72 N002 N001 200m
L73 N002 N001 150m
L74 N002 N001 50m
L75 N002 N001 100m
L76 N002 N001 150m
L77 N002 N001 50m
L78 N002 N001 50m
L79 N002 N001 150m
L80 N002 N001 100m
R8 N001 N002 100
.tran 0 1m 0 1u
.backanno
.end
